US05482936
Triethylamine (0.17 mL, 1.25 mmole) was added to a solution of N,N-bis(phenylmethyl)-2-(2-hydroxyethoxy)methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.14 mmole) in methylene chloride (20 mL). Methanesulfonyl chloride (0.09 mL, 1.14 mmole) was added and the reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was diluted with methylene chloride, washed with water, dried over magnesium sulfate and then concentrated under vacuum to provide 0.6 g of N,N-bis(phenylmethyl)-2-(2-methylsulfonyloxyethoxy)methyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | Triethylamine | 1.25 mmole, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(phenylmethyl)-2-(2-hydroxyethoxy)methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.14 mmole, 0.5 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)COCCO)CC2=CC=CC=C2 | C27H26N4O2
reactant | Methanesulfonyl chloride | 1.14 mmole, 0.09 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N,N-bis(phenylmethyl)-2-(2-methylsulfonyloxyethoxy)methyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.6 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)COCCOS(=O)(=O)C)CC2=CC=CC=C2 | C28H28N4O4S
